US04612324
A suspension of 15 g (69 mmol) of 1-benzyl-4,5-dimethyl-2-hydroxymethylimidazole in 50 ml of dichloromethane was added portionwise over a period of 30 minutes to a stirred solution of 25 ml of thionyl chloride in 25 ml of dichloromethane. The solution obtained was boiled under reflux for 1.5 hours and then left to stand at room temperature overnight. Evaporation of the solution gave 23.5 g of crude 1-benzyl-2-chloromethyl-4,5-dimethylimidazole hydrochloride in the form of an oil which was used in the next step without further purification.

reactant | 1-benzyl-4,5-dimethyl-2-hydroxymethylimidazole | 69 mmol, 15 g | C(C1=CC=CC=C1)N1C(=NC(=C1C)C)CO | C13H16N2O
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-benzyl-2-chloromethyl-4,5-dimethylimidazole hydrochloride | 23.5 g | Cl.C(C1=CC=CC=C1)N1C(=NC(=C1C)C)CCl | InChI=1S/C13H15ClN2.ClH/c1-10-11(2)16(13(8-14)15-10)9-12-6-4-3-5-7-12;/h3-7H,8-9H2,1-2H3;1H
